US08648089B2
6-(6-(4-methoxyphenyl)-3-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine
DMF (5 mL) was added to a mixture of 6-(3-bromo-6-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine (200 mg, 0.49 mmol), K3PO4 (312 mg, 0.885 mmol) and 3-nitrophenylboronic acid (123 mg, 0.74 mmol) and then the dissolved gas was removed. After adding Pd(PPh3)4 (85 mg, 0.075 mmol), the mixture was stirred at 100° C. for 4 hours. After adding ethyl acetate and water and filtering using a diatomite pad, the organic layer was separated and the aqueous layer was extracted with ethyl acetate. The collected organic layer was washed with brine and concentrated under reduced pressure by drying with anhydrous magnesium sulfate. The residue was purified by chromatography (silica gel, EA:Hx=1:4-1:1). The target compound (70 mg) was obtained as white solid.

reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 6-(3-bromo-6-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | 0.49 mmol, 200 mg | BrC1=CN(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)C1=CC(=NC=N1)NC | C20H17BrN4O
reactant | K3PO4 | 0.885 mmol, 312 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3-nitrophenylboronic acid | 0.74 mmol, 123 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
catalyst | Pd(PPh3)4 | 0.075 mmol, 85 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(6-(4-methoxyphenyl)-3-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | 70 mg | COC1=CC=C(C=C1)C1=CC=C2C(=CN(C2=C1)C1=CC(=NC=N1)NC)C1=CC(=CC=C1)[N+](=O)[O-] | C26H21N5O3
